US04304770
To a suspension of ethyl 2-hydroxyimino-3-oxobutyrate (syn isomer) (40 g.) and potassium carbonate (52 g.) in dimethylformamide (200 ml.) was added pentyl bromide (37.9 g.) with stirring, and the mixture was stirred for 1.5 hours at ambient temperature. The insoluble material was collected by filtration and washed with dimethylformamide. The filtrate and the washings were combined together and evaporated to dryness under reduced pressure. To the residue was added water and the mixture was extracted with chloroform. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure to give an oil of ethyl 2-pentyloxyimino-3-oxobutyrate (syn isomer) (57.5 g.).

reactant | ethyl 2-hydroxyimino-3-oxobutyrate | 40 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | potassium carbonate | 52 g | C([O-])([O-])=O.[K+].[K+]
reactant | pentyl bromide | 37.9 g | C(CCCC)Br | C5H11Br
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | ethyl 2-pentyloxyimino-3-oxobutyrate | 57.5 g | C(CCCC)ON=C(C(=O)OCC)C(C)=O | C11H19NO4
